US05026856
10-(4-fluoro-2-isoindolinyl)-9-fluoro-2,3-dihydro-3-methyl- 7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid
141 mg of 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid, 206 mg of 4-fluoroisoindoline, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 71 mg of the target compound.

reactant | 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid | 141 mg | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
reactant | 4-fluoroisoindoline | 206 mg | FC1=C2CNCC2=CC=C1 | C8H8FN
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 10-(4-fluoro-2-isoindolinyl)-9-fluoro-2,3-dihydro-3-methyl- 7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid | 71 mg | FC1=C2CN(CC2=CC=C1)C=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)O)F | C21H16F2N2O4
